US08026270B2
Diethyl 1,4-bis[(phenylmethyl)oxy]-2,3-naphthalenedicarboxylate
Benzylbromide (2.95 ml, 24.7 mmol) was added to a stirred solution of diethyl 1,4-dihydroxy-2,3-naphthalenedicarboxylate (3 g, 9.87 mmol) and potassium carbonate (3.40 g, 24.7 mmol) in acetone (100 ml). The reaction mixture was refluxed for 18 hours under an atmosphere of argon. The resulting mixture was evaporated and the reaction mixture triturated with water. The resulting tan coloured solid was collected by filtration and washed with water then dried under vacuum to give the title compound (5.23 g, 10.8 mmol). LC/MS: Rt=4.13, [MH]+ 485.

reactant | Benzylbromide | 24.7 mmol, 2.95 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | diethyl 1,4-dihydroxy-2,3-naphthalenedicarboxylate | 9.87 mmol, 3 g | OC1=C(C(=C(C2=CC=CC=C12)O)C(=O)OCC)C(=O)OCC | C16H16O6
reactant | potassium carbonate | 24.7 mmol, 3.40 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | Diethyl 1,4-bis[(phenylmethyl)oxy]-2,3-naphthalenedicarboxylate | 10.8 mmol, 5.23 g | C1(=CC=CC=C1)COC1=C(C(=C(C2=CC=CC=C12)OCC1=CC=CC=C1)C(=O)OCC)C(=O)OCC | C30H28O6
